US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N—((S)-2-cyclopropyl-2-hydroxy-propyl)-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 5, using 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester, 4-chlorophenyl-boronic acid (commercially available), 1-methyl-1H-1,2,4-triazole-5-methanol (CAN 91616-36-3), and (S)-α-(aminomethyl)-α-methyl-cyclopropanemethanol (WO 2006/106054) as starting materials. MS (ISP): 442.1 (M+H+).

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)Cl | C7H5BrClNO2
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 1-methyl-1H-1,2,4-triazole-5-methanol | CN1N=CN=C1CO | C4H7N3O
reactant | (S)-α-(aminomethyl)-α-methyl-cyclopropanemethanol | NC[C@@](O)(C1CC1)C | C6H13NO
product | 5-(4-Chloro-phenyl)-N—((S)-2-cyclopropyl-2-hydroxy-propyl)-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NC[C@@](C)(O)C2CC2)C1)OCC=1N(N=CN1)C | C22H24ClN5O3
